US04455422
3.0 Grams of 6-{1-oxo-4-[4-(3-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril was added to 100 ml of methanol, under stirring condition 1.2 g of sodium borohydride was added gradually to the solution and stirred at a room temperature for 5 hours. Then 5 ml of concentrated hydrochloric acid was added to the reaction mixture and the mixture was concentrated under a reduced pressure to dryness. Then to this dried matter was added 50 ml of 2%-sodium hydroxide aqueous solution and the organic layer was extracted with dichloromethane. The dichloromethane layer was washed with water, dried and the dichloromethane was removed by distillation. The residue thus obtained was purified by a silica gel column chromatography, and recrystallized from isopropanol to obtain 2.2 g of 6-{1-hydroxy-4[4-(3-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril in colorless needle-like crystals.

reactant | 6-{1-oxo-4-[4-(3-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril | O=C(CCCN1CCN(CC1)C1=CC(=CC=C1)Cl)C=1C=C2CCC(NC2=CC1)=O | C23H26ClN3O2
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 6-{1-hydroxy-4[4-(3-chlorophenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril | 2.2 g | OC(CCCN1CCN(CC1)C1=CC(=CC=C1)Cl)C=1C=C2CCC(NC2=CC1)=O | C23H28ClN3O2
